US04496756
The process of claim 1 wherein benzyl chloride is reacted with acetamide, carbon monoxide, hydrogen, and methanol in the presence of dicobalt octacarbonyl, sodium methoxide, and methyl isobutyl ketone so as to form N-acetyl-D,L-phenylalanine methyl ester.

reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | acetamide | C(C)(=O)N | C2H5NO
reactant | carbon monoxide | [C]=O | CO
reactant | hydrogen | [H][H] | H2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
catalyst | dicobalt octacarbonyl | [CH-]=O.[CH-]=O.[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Co].[Co+2]
solvent | methanol | CO | CH4O
product | N-acetyl-D,L-phenylalanine methyl ester | COC(C(NC(C)=O)CC1=CC=CC=C1)=O | C12H15NO3
